US04544759
A 17.16 g portion of 4-chlorothiobenzamide was dissolved in 80 ml of acetone and 15.14 g of methyl iodide was added. The mixture was stirred for 2 hours and then the solid was collected, washed with acetone and dried, giving 21.3 g of 4-chlorobenzenecarboximidothioic acid, methyl ester, hydroiodide.

reactant | 4-chlorothiobenzamide | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
reactant | methyl iodide | 15.14 g | CI | CH3I
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 4-chlorobenzenecarboximidothioic acid, methyl ester, hydroiodide | 21.3 g | I.ClC1=CC=C(C=C1)C(=N)SC | InChI=1S/C8H8ClNS.HI/c1-11-8(10)6-2-4-7(9)5-3-6;/h2-5,10H,1H3;1H
